US07825244B2
(R)-4-[7-(1-Acetyl-pyrrolidin-3-yloxy)-quinazolin-4-yl]-piperidine-1-carboxylic acid tert-butyl ester
To a solution of KOt-Bu (55.1 mg, 0.47 mmol) in THF (1 mL) was added (R)-hydroxypyrrolidine (37.7 mg, 0.43 mmol), followed by 4-(7-fluoro-quinazolin-4-yl)-piperidine-1-carboxylic acid tert-butyl ester (110.3 mg, 0.33 mmol), which was prepared as described in Example 12b, in THF (1 mL). The mixture was stirred for 1 h at room temperature, quenched with (CH3CO)2O. The mixture was then partitioned between EtOAc and water. The organic extracts were washed with brine and evaporated and the residue was used for the next step reaction without further purification. LC/MS for C24H33N4O4 (MH+) 440.2, found 440.5.

reactant | KOt-Bu | 0.47 mmol, 55.1 mg | CC(C)(C)[O-].[K+]
reactant | (R)-hydroxypyrrolidine | 0.43 mmol, 37.7 mg | C1CNC[C@@H]1O | C4H9NO
reactant | 4-(7-fluoro-quinazolin-4-yl)-piperidine-1-carboxylic acid tert-butyl ester | 0.33 mmol, 110.3 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=NC=NC2=CC(=CC=C12)F | C18H22FN3O2
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | (R)-4-[7-(1-Acetyl-pyrrolidin-3-yloxy)-quinazolin-4-yl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=NC=NC2=CC(=CC=C12)O[C@H]1CN(CC1)C(C)=O | C24H32N4O4
